US04544753
b. (4-Amino-5-methylisoxazol-3-yl)-2-fluorophenylmethanone
A solution of (5-methyl-4-nitroisoxazol-3-yl)-2-fluorophenylmethanone of Example VIa (6.2 g, 25 mmoles) in tetrahydrofuran (THF) (25 ml) was added to a mixture of SnCl2.2H2O (22.4 g, 100 mmoles) in concentrated hydrochloric acid (40 ml) and THF (20 ml) with ice-bath cooling over 1 hour. After warming to room temperature, the reaction mixture was poured into cold 10% sodium hydroxide (500 ml) with stirring and extracted with ethyl acetate. The extracts were washed with dilute sodium chloride and dried (sodium sulfate). Concentration gave an oil which was flash chromatographed (20% ethyl acetate:hexane) to yield 2.4 g (44%) of an oil that solidified.

reactant | (5-methyl-4-nitroisoxazol-3-yl)-2-fluorophenylmethanone | CC1=C(C(=NO1)C(=O)C1=C(C=CC=C1)F)[N+](=O)[O-] | C11H7FN2O4
reactant | SnCl2.2H2O | 100 mmoles, 22.4 g | O.O.Cl[Sn]Cl
reactant | sodium hydroxide | 500 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 40 ml | Cl | ClH
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | (4-Amino-5-methylisoxazol-3-yl)-2-fluorophenylmethanone | 2.4 g, 44% | NC=1C(=NOC1C)C(=O)C1=C(C=CC=C1)F | C11H9FN2O2
